US08202865B2
Step 1: methyl 4-{5-[3-[(propylsulfonyl)amino]-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate
The title compound was obtained following procedure and work up described for example 67, step 1, but starting from methyl 4-{5-[3-amino-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate, prepared as in example 67, Steps 1 and 2, (200 mg; 0.49 mmol) and 1-propanesulfonyl chloride (280 mg; 2 mmol). The title compound was obtained as a yellow powder after column chromatography (EtOAc:cHex from 10:90 to 100:0). LC/MS (Method B): 517.4 (M+H)+. HPLC (Method A) Rt. 6.37 min (purity: 96.5%).

reactant | methyl 4-{5-[3-amino-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate | NC=1C=C(C=CC1N1C(CCCC1)C)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F | C22H23FN4O3
reactant | 1-propanesulfonyl chloride | 2 mmol, 280 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 4-{5-[3-[(propylsulfonyl)amino]-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}-2-fluorobenzoate | C(CC)S(=O)(=O)NC=1C=C(C=CC1N1C(CCCC1)C)C1=NC(=NO1)C1=CC(=C(C(=O)OC)C=C1)F | C25H29FN4O5S
